US09447024B1
N-Acetyl-D-serine methyl ester (1.0 g, 0.0062 mole) was dissolved in benzylamine (1.32 g, 0.0124 mole) at 0-5° C. To this was added triethylamine (0.125 g, 0.00124 mole) at 0-5° C. The reaction mixture was heated and stirred at 60° C. for 12 hr, cooled to room temperature, 20 ml methyl tert-butyl ether added and stirred for 3 hr. The product was filtered and dried under vacuum to obtain (R)-2-acetamido-N-benzyl-3-hydroxy-propionamide. (1.0 g, Yield: 68.4%, HPLC:94.8%, Chiral HPLC: 81.2%),

reactant | N-Acetyl-D-serine methyl ester | 0.0062 mole, 1.0 g | COC([C@H](NC(C)=O)CO)=O | C6H11NO4
reactant | benzylamine | 0.0124 mole, 1.32 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 0.00124 mole, 0.125 g | C(C)N(CC)CC | C6H15N
solvent | methyl tert-butyl ether | 20 ml | C(C)(C)(C)OC | C5H12O
product | (R)-2-acetamido-N-benzyl-3-hydroxy-propionamide | Yield: 68.4% | C(C)(=O)N[C@@H](C(=O)NCC1=CC=CC=C1)CO | C12H16N2O3
